US07598243B2
A 3-neck round bottomed flask equipped with an addition funnel and condenser and containing zinc dust (2.45 g, 37.4 mmol) was flame dried. After cooling, and purging the system with nitrogen gas, 6 mL of THF was added, followed by 1,2-dibromoethane (0.298 mL, 3.46 mmol). The mixture was warmed to a vigorous reflux using a heat gun and stirred at reflux for ˜30 seconds (gas evolution was observed), then cooled to room temperature. The warming and cooling was repeated two more times. Then chlorotrimethylsilane (0.402 mL, 3.17 mmol) was added and the mixture was stirred at room temperature for 20 minutes. N-t-butoxycarbonyl-4-iodo-piperidine (known: Billotte, S. Synlett (1998), 379, 8.97 g, 28.8 mmol) in 15 mL of THF was added over a period of about 1 minutes. The reaction mixture was stirred at 50° C. for 1.5 h, then was cooled to room temperature. Meanwhile, a mixture of tri-2-furylphosphine (267 mg, 1.15 mmol) and Tris(dibenzylideneacetone)-dipalladium(0) chloroform adduct (298 mg, 0.288 mmol) was dissolved in 6 mL of THF under a nitrogen atmosphere, stirred for 15 minutes at room temperature, and added to the organozinc solution. Then a solution of 2-bromopyrimidine (5.50 g, 34.6 mmol) in a mixture of 58 mL of THF and 20 mL of N,N-dimethylacetamide was added. The reaction mixture was warmed to 80° C. and stirred for 3.5 h, then was cooled to room temperature and stirred for 36 h. The reaction mixture was filtered through celite and the filter cake was washed with ethyl acetate. The filtrate was diluted further with ethyl acetate, and washed with saturated NaHCO3 solution. The aqueous layer was back extracted with ethyl acetate, the organic layers were combined and washed twice with water and once with brine. The organic phase was dried over anhydrous MgSO4, filtered, and concentrated. Purification by flash chromatography (silica, stepwise gradient: 25% ethyl acetate/hexane, 40% ethyl acetate/hexane, 60% ethyl acetate/hexane, 80% ethyl acetate/hexane, 100% ethyl acetate) to afford 4.92 g of pure 4-(2-pyrimidyl)-piperidine product (65%). 1H NMR (500 MHz, CDCl3): δ 8.70 (d, J=5.0 Hz, 2H), 7.16 (app t, J=4.5 Hz, 1H), 4.24 (br s, 2H), 3.05 (m, 1H), 2.89 (br m, 2H), 2.01 (br d, J=13 Hz, 2H), 1.84 (dq, J=4.5, 12.5 Hz, 2H), 1.49 (s, 9H).

reactant | 1,2-dibromoethane | 3.46 mmol, 0.298 mL | BrCCBr | C2H4Br2
reactant | chlorotrimethylsilane | 3.17 mmol, 0.402 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | N-t-butoxycarbonyl-4-iodo-piperidine | 28.8 mmol, 8.97 g | C(C)(C)(C)OC(=O)N1CCC(CC1)I | C10H18INO2
reactant | 2-bromopyrimidine | 34.6 mmol, 5.50 g | BrC1=NC=CC=N1 | C4H3BrN2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 58 mL | C1CCOC1 | C4H8O
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
catalyst | zinc | 37.4 mmol, 2.45 g | [Zn] | Zn
catalyst | Tris(dibenzylideneacetone)-dipalladium(0) chloroform adduct | 0.288 mmol, 298 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | tri-2-furylphosphine | 1.15 mmol, 267 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
product | 4-(2-pyrimidyl)-piperidine | 4.92 g, 65% | N1=C(N=CC=C1)C1CCNCC1 | C9H13N3
